US07943612B2
(4-{3-[3-Bromo-5-(4-trifluoromethyl-phenylethynyl)-phenyl]-prop-2-ynyloxy}-2-methylphenoxy)-acetic acid
A solution of (4-{3-[3-bromo-5-(4-trifluoromethyl-phenylethynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid methyl ester (94 mg, 0.169 mmol) in ethanol (5 ml) and 1N NaOH (0.5 ml) was stirred at 75° C. for 30 min. The reaction mixture was evaporated and the residue dissolved in water (2 ml). Aqueous 1N HCl (0.6 ml) was added and the mixture was extracted with methylene chloride (3×15 ml). The combined organic phases were dried and evaporated to give the title compound in 79 mg (86%) yield.

reactant | (4-{3-[3-bromo-5-(4-trifluoromethyl-phenylethynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid methyl ester | 0.169 mmol, 94 mg | COC(COC1=C(C=C(C=C1)OCC#CC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)C(F)(F)F)Br)C)=O | C28H20BrF3O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 0.5 ml | [OH-].[Na+]
product | (4-{3-[3-Bromo-5-(4-trifluoromethyl-phenylethynyl)-phenyl]-prop-2-ynyloxy}-2-methylphenoxy)-acetic acid | BrC=1C=C(C=C(C1)C#CC1=CC=C(C=C1)C(F)(F)F)C#CCOC1=CC(=C(OCC(=O)O)C=C1)C | C27H18BrF3O4
